### PR TITLE
sumeN

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

minor addition, used in the dev of measure theory

##### Things done/to do

~~TODO before merge: doppeD, doppeB~~

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

File: theories/constructive_ereal.v [hunk 1]
```diff
@@ -826,14 +826,24 @@ Proof. by move: x y => [x| |] [y | |]. Qed.
 Lemma fineK x : x \is a fin_num -> (fine x)%:E = x.
 Proof. by case: x. Qed.
 
+Lemma sume_sum (I : Type) s (P : pred I) (f : I -> \bar R) :
+  (forall i, P i -> f i \is a fin_num) ->
+  \sum_(i <- s | P i) f i = (\sum_(i <- s | P i) fine (f i))%:E.
```
Comment (proux01) [inline theories/constructive_ereal.v:831]: Maybe?
```suggestion
Lemma sum_fineE (I : Type) s (P : pred I) (f : I -> \bar R) :
    (forall i, P i -> f i \is a fin_num) ->
  \sum_(i <- s | P i) f i = (\sum_(i <- s | P i) fine (f i))%:E.
```
(we usually put the most complicated side on left of `=`)

File: theories/constructive_ereal.v [hunk 2]
```diff
@@ -826,14 +826,24 @@ Proof. by move: x y => [x| |] [y | |]. Qed.
...
+Qed.
+
 Lemma sum_fine (I : Type) s (P : pred I) (F : I -> \bar R) :
   (forall i, P i -> F i \is a fin_num) ->
   (\sum_(i <- s | P i) fine (F i) = fine (\sum_(i <- s | P i) F i))%R.
+Proof. by move=> h; rewrite sume_sum. Qed.
+
+Lemma sumeN I s (P : pred I) (f : I -> \bar R) :
+  (forall i, P i -> f i \is a fin_num) ->
+  \sum_(i <- s | P i) - f i = - \sum_(i <- s | P i) f i.
```
Comment (proux01) [inline theories/constructive_ereal.v:843]: indentation?
```suggestion
Lemma sumeN I s (P : pred I) (f : I -> \bar R) :
    (forall i, P i -> f i \is a fin_num) ->
  \sum_(i <- s | P i) - f i = - \sum_(i <- s | P i) f i.
```

Comment (CohenCyril) [reply theories/constructive_ereal.v:843]: I think the precondition can be weakened to `{in s &, forall i j, f i +? f j}`

Comment (affeldt-aist) [reply theories/constructive_ereal.v:843]: You don't mind if `I` is required to be an `eqType`?

File: theories/constructive_ereal.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/constructive_ereal.v:831]: OK with eq_syming the conclusion but what about `EFin_sum_fine` for the name?

Comment (proux01) [reply theories/constructive_ereal.v]: That's indeed more precise (although longer)

File: theories/constructive_ereal.v (hunk 2 above)
Comment (affeldt-aist) [reply theories/constructive_ereal.v]: This is the proof `adde_def_sumeN` in the last commit. Or maybe you can have both proofs? The originally propose `sumeN` and `adde_def_sumeN`?

Comment (proux01) [reply theories/constructive_ereal.v]: IMHO, the two things (`adde_def` vs `fin_num` and `Type` vs `eqType`) are orthogonal, I would expect to have both `Type` and `eqType` versions with `adde_def`, maybe:
```Coq
Lemma sumeN I s (P : pred I) (f : I -> \bar R) :
    (forall i j, P i -> P j -> f i +? f j) ->
  \sum_(i <- s | P i) - f i = - \sum_(i <- s | P i) f i.
```
and
```Coq
Lemma sumeN_seq (I : eqType) s (P : pred I) (f : I -> \bar R) :
    {in s &, forall i j, f i +? f j} ->
  \sum_(i <- s | P i) - f i = - \sum_(i <- s | P i) f i.
```

Comment (CohenCyril) [reply theories/constructive_ereal.v]: I think only the first one is actually needed.

**Comment by affeldt-aist** [comment]
Is it ok if we have `adde_def_oppeD` and `oppeD` with `fin_num` as hypothesis? Same for `oppeB`.
If it is ok, we can add the versions for `doppeD` and `doppeB` and we are done.
There is certainly something more systematic and significant to be done about `adde_def`
but that can maybe be the purpose of another PR.

**Comment by affeldt-aist** [comment]
> Is it ok if we have `adde_def_oppeD` and `oppeD` with `fin_num` as hypothesis? Same for `oppeB`. If it is ok, we can add the versions for `doppeD` and `doppeB` and we are done. There is certainly something more systematic and significant to be done about `adde_def` but that can maybe be the purpose of another PR.

"Something more systematic" might go through the introduction of a more generic notation allowing to write
`?( x + y)`. @CohenCyril 

I gave it a try with the following reserved notation:
```coq
Reserved Notation "'?(' x '+' y ')'" (at level 0, x, y at level 1,
  format "'?(' x  +  y ')'").
```
One needs then at add parenteses here and there (e.g., `?( (- x) + y)`)
and it conflicts with SSReflect tactics such as `rewrite ?(f x)`.

There is certainly a better way to declare this notation.

Shall we issue about that and care later?

**Comment by CohenCyril** [comment]
The question of the notation `?(x + y)` is orthogonal, this PR should proceed independently.
(It's ok to introduce and preserve an alias `x +? y := ?(x+ y)` later on.

However, for this PR, I advocate that the primary lemmas should be the ones with hypothesis `x +? y` rather than finitude, and hence have `oppeD x  y : x +? y -> - (x + y) = - x - y`.

For the summations, it's the same, the first and primary lemma should be `sumeN` perhaps use `allpairs` ?

File: theories/constructive_ereal.v [hunk 3]
```diff
@@ -621,9 +621,18 @@ Local Notation "x +? y" := (adde_def x y).
...
+Lemma fin_num_adde_defr x y : x \is a fin_num -> x +? y.
+Proof. by move: x y => [x| |] [y | |]. Qed.
+
+Lemma fin_num_adde_defl x y : y \is a fin_num -> x +? y.
+Proof. by rewrite adde_defC; exact: fin_num_adde_defr. Qed.
+
+Lemma adde_defN x y : x +? - y = - x +? y.
 Proof. by move: x y => [x| |] [y| |]. Qed.
 
+Lemma adde_defD x y z : x +? y -> x +? z -> x +? (y + z).
```
Comment (CohenCyril) [inline theories/constructive_ereal.v:633]:
```suggestion
Lemma adde_defDr x y z : x +? y -> x +? z -> x +? (y + z).
```

File: theories/constructive_ereal.v [hunk 4]
```diff
@@ -2185,11 +2185,12 @@ Qed.
 
 Lemma fin_num_sume_distrr (I : Type) (s : seq I) x (P : pred I)
     (F : I -> \bar R) :
-  x \is a fin_num -> (forall i, P i -> F i \is a fin_num) ->
+  x \is a fin_num -> {in P &, forall i j, F i +? F j} ->
```
Comment (CohenCyril) [inline theories/constructive_ereal.v:2188]:
```suggestion
  {in P, forall i, x *? F i} -> {in P &, forall i j, F i +? F j} ->
```
For another PR?

Comment (affeldt-aist) [reply theories/constructive_ereal.v:2188]: Does it not exclude the case x = 0 and F i = +oo ?

Comment (CohenCyril) [reply theories/constructive_ereal.v:2188]: It doest so it was a bad idea.

**Review by CohenCyril — APPROVED** [review]
LGTM
